US07982055B2
To a pressure vessel purged with N2 was added 3-bromo-4-iodo-selenophene (1.97 g, 5.87 mmol), DMF (5.20 mL), triphenylphosphine (0.307 g, 1.17 mmol), copper(I) iodide (0.0740 g, 0.387 mmol), diethylamine (dried over KOH, 9.20 mL, 88.0 mmol), phenyl acetylene (0.645 mL, 5.87 mmol), and palladium dichloride-bis-triphenylphosphine (0.272 g, 0.387 mmol). The reaction vessel was sealed and the mixture heated to 70° C. for 1 h. Upon cooling to room temperature, the reaction mixture was diluted with MTBE (50.0 mL) and was washed with 0.1 M HCl (3×30.0 mL). The combined aqueous layers were extracted with MTBE (30.0 mL). The MTBE rich layer was dried over magnesium sulfate and concentrated to an oil. The crude oil was purified by column chromatography (silica gel, cyclohexane) to provide 3-bromo-4-phenylethynyl-selenophene (1.07 g, 3.19 mmol, 54.3 mol %): 500 MHz 1H NMR (CDCl3) δ 8.18 (d, J=2.9 Hz, 1H), 7.90 (d, J=2.9 Hz, 1H), 7.58-7.54 (m, 2H), 7.36-7.32 (m, 3H); 125 MHz 13C NMR (CDCl3) δ 134.2, 131.7, 128.5, 128.4, 126.8, 126.3, 122.9, 114.1, 91.0, 84.7.

reactant | 3-bromo-4-iodo-selenophene | 5.87 mmol, 1.97 g | BrC1=C[Se]C=C1I | C4H2BrISe
reactant | triphenylphosphine | 1.17 mmol, 0.307 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylamine | 88.0 mmol, 9.20 mL | C(C)NCC | C4H11N
reactant | phenyl acetylene | 5.87 mmol, 0.645 mL | C1(=CC=CC=C1)C#C | C8H6
solvent | MTBE | 50.0 mL | CC(C)(C)OC | C5H12O
catalyst | copper(I) iodide | 0.387 mmol, 0.0740 g | [Cu]I
solvent | DMF | 5.20 mL | CN(C)C=O | C3H7NO
product | 3-bromo-4-phenylethynyl-selenophene | 3.19 mmol, 1.07 g | BrC1=C[Se]C=C1C#CC1=CC=CC=C1 | C12H7BrSe
